reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][C:3]([C@@:6]1([H:17])[C@:4]([C:5]([H:14])([H:15])[H:16])([H:13])[O:7]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],61.480388810431805
[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4]([O:5][H:15])=[C:6]([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],63.5043436474109
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O+:4]=[C-:3][C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],110.582607831632
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1]1([H:8])[C:2][C@:7]1([C:6](=[O:5])[H:9])[H:10].[N:3]#[N:4],89.7208249220364
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C-:1]([N+:2]1=[C:3]([N:4]([H:10])[H:11])[C@:5]1([O:6][H:9])[H:12])([H:7])[H:8],85.1225756191824
[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:12])/[C:4]1=[N:5]\[H:11])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],72.0308871073605
[C:1](/[C:2](=[C:3](/[C:4]([C:5]#[N:6])([H:14])[H:15])[H:13])[H:10])([H:8])([H:9])[H:11].[H:7][H:12]>>[C:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],85.1632185810449
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:6]/[C:5](=[N:4]/[H:14])[H:15])[H:10])([H:7])([H:8])[H:9],70.323144666266
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([N+:6]#[C-:5])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],39.2918166759041
[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[O:4][H:10])[C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9],72.6626657900498
[C:1]([C@:2]1([H:11])[C:4]([H:13])([H:14])[C@@:5]1([O:6][O:3][H:12])[N:7]([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],32.497964066186285
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:8])([H:9])[H:10].[O:1]([H:7])[H:11],75.86864284424759
[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])([H:7])[H:9].[C:2](=[C:3]=[O:4])([H:8])[H:10],88.23186850330289
[C:1]([C:6]#[N:7])([H:8])([H:9])[H:10].[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([O:5][H:16])([H:14])[H:15]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10],27.62003517422731
[C:1]([C:2]([O:3][C:4](=[C:5]=[N:6][H:13])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],63.779639951519
[C:1](=[C:2]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])[H:9].[O:3]([H:10])[H:12]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],54.98777756628509
[O:1]1[C:2]([H:8])([H:9])[C@@:6]2([H:12])[C+:5]([H:11])[C:4]([H:10])=[C-:3][C@@:7]12[H:13]>>[O:1]1[C@@:2]2([H:8])[C@:3]3([H:9])[C:4]([H:10])=[C:5]([H:11])[C@@:6]2([H:12])[C@:7]13[H:13],37.896916507176996
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[N:6])[H:7]>>[C+:3]([O:4][H:7])=[C:5]=[N-:6].[O+:1]#[C-:2],53.8182841043116
[N:1]([C:2](=[O:3])[C:4]([O:5][C-:6]=[N+:7]([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],50.5712058546591
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][H:16])([H:7])([H:8])[H:9].[C:3]1([H:10])([H:11])[C@:4]([C:5]([H:13])([H:14])[H:15])([H:12])[O:6]1,75.3789994243657
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6][O:7][H:10])\[H:8],83.54442035433809
[C:1]([C:2]([C:3]#[C:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:3]([C:2]([C:5]#[C:6][H:12])([H:9])[H:10])=[C:4]1[H:11],107.240040796564
[O:1]1[C@@:2]2([H:7])[C:3](=[O:4])[C:5]2=[C:6]1[H:8]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7],14.305390898870108
[C:1]([C:2](=[O:3])[O+:5]=[C-:4][H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[H:9])([H:6])([H:7])[H:8],12.7163329842517
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O+:1](=[C:2]([N:3]([C-:4]([H:9])[H:10])[H:8])[H:7])[C:5]#[C:6][H:11],97.8984772708433
[O:1]=[C:2]=[C:3]([C:4](/[N:5]=[C:6](\[O:7][H:8])[H:12])([H:10])[H:11])[H:9]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],56.96199802265974
